US04818431
A solution of 29.4 g of 4-hydroxymethyl-1-p-ethoxyphenyl-1-nonanol [obtainable by reaction of diethyl 2-pentylmalonate (boiling point 127°/13 mbar) with ethyl 3-bromopropionate to give diethyl 2-carboethoxy-2-pentylglutarate (boiling point 160°/0.4 mbar), hydrolysis and decarboxylation to give 2-pentylglutaric acid, heating to form the anhydride (boiling point 120°/0.7 mbar), reaction with phenetol/AlCl3 to give 4-p-ethoxybenzoyl-2-pentylbutyric acid (m.p. 61°) and reduction with LiAlH4 ] and 1 g of p-toluenesulfonic acid in 400 ml of benzene is boiled under a water separator for 6 hours, then the mixture is washed with NaHCO3 solution, dried, evaporated and 2-p-ethoxyphenyl-5-pentyltetrahydropyran is obtained.

reactant | 4-hydroxymethyl-1-p-ethoxyphenyl-1-nonanol | 29.4 g | OCC(CCC(O)C1=CC=C(C=C1)OCC)CCCCC | C18H30O3
reactant | diethyl 2-pentylmalonate | C(CCCC)C(C(=O)OCC)C(=O)OCC | C12H22O4
reactant | ethyl 3-bromopropionate | BrCCC(=O)OCC | C5H9BrO2
reactant | diethyl 2-carboethoxy-2-pentylglutarate | C(=O)(OCC)C(C(=O)OCC)(CCC(=O)OCC)CCCCC | C17H30O6
product | 2-pentylglutaric acid | C(CCCC)C(C(=O)O)CCC(=O)O | C10H18O4
